### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Multiequalizer.lean [hunk 1]
```diff
@@ -736,9 +733,7 @@ noncomputable def multicoforkEquivSigmaCofork :
         -- Porting note (https://github.com/leanprover-community/mathlib4/issues/11041): in mathlib3 this was just `ext` and I don't know why it's not here
         apply Limits.colimit.hom_ext
         rintro ⟨j⟩
-        dsimp
-        simp only [Category.comp_id, colimit.ι_desc, Cofan.mk_ι_app]
-        rfl)
+        simp)
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Limits/Shapes/Multiequalizer.lean:736]: Have you eyeballed the performance here?

File: Mathlib/CategoryTheory/Limits/Shapes/Multiequalizer.lean [hunk 2]
```diff
@@ -901,10 +896,7 @@ def sigmaπ : ∐ I.right ⟶ multicoequalizer I :=
 @[reassoc (attr := simp)]
 theorem ι_sigmaπ (b) : Sigma.ι I.right b ≫ sigmaπ I = π I b := by
   rw [sigmaπ, ← Category.assoc, Iso.comp_inv_eq, isoCoequalizer]
-  simp only [MultispanIndex.multicoforkEquivSigmaCofork_inverse,
-    MultispanIndex.ofSigmaCoforkFunctor_obj, colimit.isoColimitCocone_ι_hom,
-    Multicofork.ofSigmaCofork_pt, colimit.cocone_x, Multicofork.π_eq_app_right]
-  rfl
+  simp
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Limits/Shapes/Multiequalizer.lean:899]: Likewise

File: Mathlib/Data/List/Indexes.lean [hunk 3]
```diff
@@ -50,10 +50,9 @@ variable {m : Type u → Type v} [Monad m] [LawfulMonad m]
 
 theorem mapIdxMAux'_eq_mapIdxMGo {α} (f : ℕ → α → m PUnit) (as : List α) (arr : Array PUnit) :
     mapIdxMAux' f arr.size as = mapIdxM.go f as arr *> pure PUnit.unit := by
-  revert arr
-  induction as <;> intro arr
-  case nil => simp only [mapIdxMAux', mapIdxM.go, seqRight_eq, map_pure, seq_pure]
-  case cons head tail ih =>
+  induction as generalizing arr with
+  | nil => simp only [mapIdxMAux', mapIdxM.go, seqRight_eq, map_pure, seq_pure]
+  | cons head tail ih =>
```
Comment (grunweg) [inline Mathlib/Data/List/Indexes.lean:55]: Much nicer, thanks!

File: Mathlib/Data/List/OfFn.lean [hunk 4]
```diff
@@ -52,8 +52,10 @@ theorem ofFn_congr {m n : ℕ} (h : m = n) (f : Fin m → α) :
 theorem ofFn_succ' {n} (f : Fin (succ n) → α) :
     ofFn f = (ofFn fun i => f (Fin.castSucc i)).concat (f (Fin.last _)) := by
   induction n with
-  | zero => rw [ofFn_zero, concat_nil, ofFn_succ, ofFn_zero]; rfl
-  | succ n IH => rw [ofFn_succ, IH, ofFn_succ, concat_cons, Fin.castSucc_zero]; congr
+  | zero => rw [ofFn_zero, concat_nil, ofFn_succ, ofFn_zero, Fin.last_zero]
+  | succ n IH =>
+    rw [ofFn_succ, IH, ofFn_succ, concat_cons, Fin.castSucc_zero, Fin.succ_last]
+    simp only [succ_eq_add_one, Fin.castSucc_succ]
```
Comment (grunweg) [inline Mathlib/Data/List/OfFn.lean:58]: Can you say why you prefer this one? I'm interested to learn. (I haven't heard such an argument (yet!).)

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 5]
```diff
@@ -157,8 +157,7 @@ def compl₂ (h : M →ₛₗ[σ₁₅] N →ₛₗ[σ₂₃] P) (g : Q →ₛ
   map_add' _ _ := by
     simp [map_add]
   map_smul' _ _ := by
-    simp only [LinearMap.map_smulₛₗ, lcompₛₗ]
-    rfl
+    simp [LinearMap.map_smulₛₗ, lcompₛₗ]
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/BilinearMap.lean:160]: You did eyeball-performance this, right?

File: Mathlib/RepresentationTheory/Basic.lean [hunk 6]
```diff
@@ -482,17 +482,16 @@ noncomputable instance :
...
-      simp [(MonoidAlgebra.single_mul_apply)]
-    )
-    (fun x y hx hy => by simp only [hx, hy, add_mul, add_smul]) fun r x hx => by
-    simp [← hx]
+    x • y = (x * y : MonoidAlgebra k G) := by
+  induction x using MonoidAlgebra.induction_on with
+  | hM g =>
+    change asAlgebraHom (ofMulAction k G G) _ _ = _
+    ext
+    -- Porting note: single_mul_apply not firing in simp without parentheses, probably due to the
```
Comment (grunweg) [inline Mathlib/RepresentationTheory/Basic.lean:490]: Flagging this comment change for a second pair of eyes

File: Mathlib/Algebra/Order/Module/Archimedean.lean [hunk 7]
```diff
@@ -52,10 +52,7 @@ def submodule (s : UpperSet (ArchimedeanClass M)) : Submodule K M where
   smul_mem' k {a} := by
     obtain rfl | hs := eq_or_ne s ⊤
     · aesop
-    change a ∈ addSubgroup s → k • a ∈ addSubgroup s
-    simp_rw [mem_addSubgroup_iff hs]
-    refine fun h ↦ s.upper ?_ h
-    apply mk_le_mk_smul
+    simpa [mem_addSubgroup_iff hs] using s.upper (mk_le_mk_smul a k)
```
Comment (grunweg) [inline Mathlib/Algebra/Order/Module/Archimedean.lean:55]: Nice golf. As below about eyeballing performance.

**Review by grunweg — COMMENTED** [review]
Thanks for doing this. As usual, this looks great and I only have minor comments/questions.

File: Mathlib/Data/List/OfFn.lean (hunk 4 above)
Comment (uniwuni) [reply Mathlib/Data/List/OfFn.lean:58]: not the author but the zero case avoids the unification needed for `rfl` and hence might save a couple ticks, doesn't it?

Comment (Ruben-VandeVelde) [reply Mathlib/Data/List/OfFn.lean:58]: The `congr` is basically a heavy `rfl` here, so I think it makes more sense to use the API.

File: Mathlib/CategoryTheory/Limits/Shapes/Multiequalizer.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/CategoryTheory/Limits/Shapes/Multiequalizer.lean:736]: Yeah, both are a wash

File: Mathlib/LinearAlgebra/BilinearMap.lean (hunk 5 above)
Comment (Ruben-VandeVelde) [reply Mathlib/LinearAlgebra/BilinearMap.lean:160]: Yep

File: Mathlib/Data/List/OfFn.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Data/List/OfFn.lean:58]: Makes sense. I agree!

**Comment by grunweg** [comment]
Thanks!
maintainer merge

**Comment by adomani** [comment]
Thanks: great improvements, as usual!

bors merge
